US08252792B2
[1-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-3-yl]-dimethyl-amine
Prepared using the method used in the preparation of 2-[4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperazin-1-yl]-N,N-dimethyl-isobutyramide using dimethyl-piperidin-3-yl-amine in place of N,N-dimethyl-2-piperazin-1-yl-isobutyramide. The title compound was obtained as an off-white solid (180 mg, 76%).

reactant | 2-[4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperazin-1-yl]-N,N-dimethyl-isobutyramide | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C(C(=O)N(C)C)(C)C)N2CCOCC2 | C21H31ClN6O2S
reactant | dimethyl-piperidin-3-yl-amine | CN(C1CNCCC1)C | C7H16N2
product | [1-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-3-yl]-dimethyl-amine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC(CCC2)N(C)C)N2CCOCC2 | C18H26ClN5OS
